US07816557B2
Step B. 4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid
To the solution of 4-[1-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid methyl ester (1000 mg) in methanol (20 mL) is added sodium hydroxide (5 N aqueous, 2 mL) and stirred for 4 h. The reaction mixture is concentrated and acidified by 5 N HCl (2 mL), extracted with ethyl acetate. Combined organic layers are washed with water and brine, dried over sodium sulfate. Concentration gives the title compound (940 mg) as a white solid.

reactant | 4-[1-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid methyl ester | 1000 mg | COC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C=C1)Br)C1OCCCO1)=O | C23H27BrO5
reactant | sodium hydroxide | 5 N, 2 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-[1-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-3-methyl-butyl]-benzoic acid | 940 mg | BrC1=C(C=C(OC(CC(C)C)C2=CC=C(C(=O)O)C=C2)C=C1)C1OCCCO1 | C22H25BrO5
